US06635771B2
The product from above (1.46 g, 2.87 mmol) was dissolved in CCl4 (14.5 mL), followed by the addition of NBS (1.02 g, 5.73 mmol) and benzoyl peroxide (2 mg). The reaction mixture was heated to reflux for 1 h (until all the starting material disappeared). This mixture was cooled to room temperature, filtered and the solid was washed with CCl4. The filtrate was evaporated to a brown residue, which was dissolved in acetone (40 mL) and water (4 mL), Ag2CO3 (1.75 g, 3.16 mmol) was then added to this solution and after being stirred overnight at room temperature, it was filtered through celite, the solvent was evaporated under reduced pressure, and water was added to the residue. It was extracted with EtOAc, washed with brine, dried (Na2SO4), and evaporated to a syrup, which was purified by 10% EtOAc/hexanes to isolate the 2-formyl indole (1.13 g) in 75% yield. Alternatively the dibromide from the reaction with NBS could be poured into DMSO (10-20% concentration by weight) and stirred for 30 minutes at room temperature. When the reaction was deemed complete it was poured into water and the resulting precipitate was isolated by filtration, the cake was washed with water and dried to yield an essentially quantitative yield.

reactant | NBS | 5.73 mmol, 1.02 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 4 mL | O | H2O
solvent | CCl4 | 14.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-formyl indole | 1.13 g, 75% yield | C(=O)C=1NC2=CC=CC=C2C1 | C9H7NO
